US06506936B1
6.14 Synthesis of N-Hydroxy-3-[(diphenylmethyl)-(4-methoxybenzenesulfonyl)-amino]-propionamide (FG 256)
Ethyl acrylate (1.05 g; 10.0 mmol) and diphenylmethyamine (1.83 g; 10.0 mmol) were dissolved in absolute ethanol (25 mL) and stirred overnight at 70° C. The solution was evaporated and crude ethyl 3-(diphenylmethylamino)propionate (2.85 g; 10.0 mmol) was dissolved in DMF (50 mL). 4-Methoxybenzenesulfonyl chloride (2.30 g; 11.0 mmol) and pyridine (10 mL) were added and the mixture stirred overnight at 70° C. The dark reaction was washed with 1 N HCl (2×100 mL). The combined extracts were washed with saturated aqueous NaCl (100 mL), dried over MgSO4, filtered, and evaporated to an oil. The black residue was eluted through a filter pad of silica gel using a hexanes/ethyl acetate step gradient to remove polar material. Preparative HPLC purification, eluting with a mixture of ethyl acetate/hexanes (35:65), gave 1.06 g (23%) of the title compound as a pale yellow oil. 300 MHz 1H-NMR (CDCl3): δ 1.16 (t, 3H), 2.12 (m, 2H), 3.57 (m, 2H), 3.84 (s, 3H), 3.99 (q, 2H), 6.48 (s, 1H), 6.83 (d, 2H), 7.04 (m, 4H), 7.24 (m, 6H), 7.64 (d, 2H).

reactant | Ethyl acrylate | 10.0 mmol, 1.05 g | C(C=C)(=O)OCC | C5H8O2
reactant | diphenylmethyamine | 10.0 mmol, 1.83 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | ethyl 3-(diphenylmethylamino)propionate | 10.0 mmol, 2.85 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NCCC(=O)OCC | C18H21NO2
reactant | 4-Methoxybenzenesulfonyl chloride | 11.0 mmol, 2.30 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-Hydroxy-3-[(diphenylmethyl)-(4-methoxybenzenesulfonyl)-amino]-propionamide | 1.06 g, 23% | ONC(CCN(S(=O)(=O)C1=CC=C(C=C1)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H24N2O5S
